US04714778
Preparation of 3-(3-methylbut-2-enyl)-2,6-toluenediamine
A 200 g (1.64 mol) portion of 2,6-toluenediamine, 167 g (2.45 mol) of isoprene, 200 g (2.78 mol) of pentane, and 20 g of powdered H-Y zeolite were reacted at 150° C. in a similar fashion as indicated in Example 1. Isolation of a catalyst free sample was obtained by hot filtration. Selective removal of all residual hydrocarbon by vacuum distillation afforded the following product mixture:

reactant | 2,6-toluenediamine | C=1(C(=CC=CC1N)N)C | C7H10N2
reactant | isoprene | 2.45 mol, 167 g | C=CC(C)=C | C5H8
reactant | pentane | 2.78 mol, 200 g | CCCCC | C5H12
product | 3-(3-methylbut-2-enyl)-2,6-toluenediamine | CC(=CCC1=C(C(=C(C=C1)N)C)N)C | C12H18N2
